US04201712
(a) 0.1 Mol=35.8 gm of 7-bromo-5-(o-chlorophenyl)-thieno-[2,3-e]-4,1-oxazepinone were heated with 350 ml of diglyme, 24 gm of P2S5 and 19 gm of NaHCO3 for 30 minutes at 60° C. Subsequently, the reaction mixture was poured over about 1 liter of ice water, whereby a crystalline precipitate was formed, which was suction-filtered off, washed with water and dried. 37 gm=99% of theory of 7-bromo-5-(o-chlorophenyl)-thieno-[2,3-e]-4,1-oxazepine-2-thione were obtained M.p. from 200° C. (decomp.).

reactant | 7-bromo-5-(o-chlorophenyl)-thieno-[2,3-e]-4,1-oxazepinone | 35.8 gm | BrC1=CC2=C(OC=CN=C2C2=C(C=CC=C2)Cl)S1=O | C13H7BrClNO2S
reactant | P2S5 | 24 gm | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | NaHCO3 | 19 gm | C(=O)(O)[O-].[Na+]
solvent | diglyme | 350 ml | COCCOCCOC | C6H14O3
product | 7-bromo-5-(o-chlorophenyl)-thieno-[2,3-e]-4,1-oxazepine-2-thione | BrC1=CC2=C(OC(CN=C2C2=C(C=CC=C2)Cl)=S)S1 | C13H7BrClNOS2
